US04748175
4-(2-Diethylaminoethyl)amino-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one dihydrochloride
A mixture containing 2 g of 4-chloro-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one, 1.52 g of triethylamine 1.16 g of 2-diethylaminoethylamine and 50 ml of abs. benzene is refluxed while stirring for 20 hours, then evaporated. After adding water to the residue, the pH is adjusted to 3 and the mixture is extracted with chloroform. The aqueous phase is alkalized to pH 9, extracted with chloroform, the latter organic phase is washed with water, dried and evaporated. The oily residue is taken up in ethanol and ethanolic hydrogen chloride solution is added. The precipitate is filtered to give 0.56 g (16%) of the product, m.p.: 252°-255° C.

reactant | 4-chloro-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one | 2 g | ClC1=NC(=NC2=C1OCC(N2)=O)C | C7H6ClN3O2
reactant | triethylamine | 1.52 g | C(C)N(CC)CC | C6H15N
reactant | 2-diethylaminoethylamine | C(C)N(CCN)CC | C6H16N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-(2-Diethylaminoethyl)amino-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one dihydrochloride | 0.56 g, 16% | Cl.Cl.C(C)N(CCNC1=NC(=NC2=C1OCC(N2)=O)C)CC | InChI=1S/C13H21N5O2.2ClH/c1-4-18(5-2)7-6-14-12-11-13(16-9(3)15-12)17-10(19)8-20-11;;/h4-8H2,1-3H3,(H2,14,15,16,17,19);2*1H
